US09193723B2
1-(4-bromophenyl)-3-(imidazo[1,2-a]pyridin-7-ylmethyl)urea
To a solution of imidazo[1,2-a]pyridin-7-ylmethanamine (500 mg, 3.40 mmol) in dichloromethane (17 ml) at room temperature was added 1-bromo-4-isocyanatobenzene (680 mg, 3.40 mmol) as a single portion. The resulting suspension was stirred overnight and then filtered with dichloromethane washes to give the title compound.

reactant | imidazo[1,2-a]pyridin-7-ylmethanamine | 3.40 mmol, 500 mg | N=1C=CN2C1C=C(C=C2)CN | C8H9N3
reactant | 1-bromo-4-isocyanatobenzene | 3.40 mmol, 680 mg | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
product | 1-(4-bromophenyl)-3-(imidazo[1,2-a]pyridin-7-ylmethyl)urea | BrC1=CC=C(C=C1)NC(=O)NCC1=CC=2N(C=C1)C=CN2 | C15H13BrN4O
